US07220862B2
(±)-3-(7-Methyl-1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid tert-butyl ester
A solution of (±)-3-(7-methyl-1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid (50 mg, 0.105 mmol) and dicyclohexylcarbodiimide (25 mg, 0.12 mmol) in dimethylformamide was stirred for 30 min at room temperature, and then pentafluorophenol (26 mg, 1.3 mmol) was added. Stirring was continued at room temperature overnight, and then the solvent was removed, the residue was dried under high vacuum for 4 h. The crude pentafluorophenyl ester was used without further purification in the next step. To a solution of tert-butyl alcohol (10 equiv.) in tetrahydrofuran at −78° C. under nitrogen was added 1.4M sec-butyllithium in cyclohexane (10 equiv.). After 10–15 min, a solution of pentafluorophenol ester (1 equiv.) in tetrahydrofuran was added. The reaction mixture was stirred at room temperature overnight. The solvents were removed in vacuo, and the residue was purified by preparative-HPLC to give the desired compound. 1H-NMR(CD3OD) δ 1.40 (s, 9H) 1.56 (m, 4H), 2.54 (s, 3H) 2.85 (m, 2H) 3.05 (m, 1H) 3.19 (m, 1H) 4.14 (m, 4H) 4.44 (m, 2H) 6.76 (d, J=7.68 Hz, 1H) 6.93 (t, J=7.5 Hz, 1H) 7.10 (m, 3H) 7.14 (s, 1H) 7.97 (s, 1H). LC/MS: tR=2.19 min, 533.36 (MH)+.

reactant | (±)-3-(7-methyl-1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid | 0.105 mmol, 50 mg | CC=1C=C(C=C2C=NNC12)CC(C(=O)O)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C25H28N6O4
reactant | dicyclohexylcarbodiimide | 0.12 mmol, 25 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | pentafluorophenol | 1.3 mmol, 26 mg | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | tert-butyl alcohol | 10 equiv. | C(C)(C)(C)O | C4H10O
reactant | sec-butyllithium | 1.4M | C(C)(CC)[Li]
reactant | cyclohexane | 10 equiv. | C1CCCCC1 | C6H12
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (±)-3-(7-Methyl-1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid tert-butyl ester | C(C)(C)(C)OC(C(CC=1C=C2C=NNC2=C(C1)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C29H36N6O4
